US04515799
Ethyl 4-(methoxycarbonylmethoxy)acetoacetate
Methyl 2-(chloroformylmethoxy)acetate (216.6 g) was added over 45 minutes to a stirred solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (173.9 g) and pyridine (189.6 g) in dichloromethane (1000 ml) keeping the temperature below 5° C. The mixture was stirred at 5° C. for 30 minutes, allowed to warm up to room temperature over one hour, washed with 2.4M hydrochloric acid and water, dried over magnesium sulphate and evaporated. The resulting brown oil was dissolved in ethanol (300 ml) and the solution heated under reflux for 2.5 hours and evaporated. The residual oil was distilled to give the title compound (32.5 g), b.p. 138°-140°/1 torr which was characterised by its N.m.r. spectrum in CDCl3, δ values: 4.27 (2H,s); 4.20 (2H, q, J 7 Hz); 4.16 (2H,s); 3.75 (3H, s); 3.54 (2H, s); 1.29 (3H, t, J 7 Hz).

reactant | Methyl 2-(chloroformylmethoxy)acetate | 216.6 g | ClC(=O)COCC(=O)OC | C5H7ClO4
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 173.9 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | pyridine | 189.6 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | Ethyl 4-(methoxycarbonylmethoxy)acetoacetate | 32.5 g | COC(=O)COCC(CC(=O)OCC)=O | C9H14O6
